US05661160
Chromatographic Resolution of (-)-1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
A racemic mixture of 1-[2-[3-(3,4-Dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (120 mg, 0.18 mmol) was resolved into two enantiomers on a CHIRALPAK AD chiral HPLC column (25 cm×2 cm) using 15% methanol in pentane to give the title compound:

reactant | 1-[2-[3-(3,4-Dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 0.18 mmol, 120 mg | Cl.ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1
reactant | methanol | CO | CH4O
solvent | pentane | CCCCC | C5H12
product | (-)-1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C34H39Cl2N3O5
